US06610727B2
12-(3,6-anhydro-β-D-glucopyranosyl)-2, 10-difluoro-12,13-dihydro-5H-indolo[2,3-a]pyrrolo[3,4-c]carbazole-5,7(6H)-dione:
2,10-Difluoro-12,13-dihydro-12-[β-D-glucopyranosyl]-5H-indolo[2,3-a]pyrrolo[3,4-c]carbazole-5,7(6H)-dione (1.0 g, 1.91 mmol) was dissolved in dry pyridine under nitrogen at room temperature and treated with flame-dried, powdered 4A molecular sieves (0.60 g). The mixture. was cooled to −20° C. for 15 min before methanesulfonyl chloride (0.26 mL, 3.34 mmol, 1.75 eq.) was added neat. The flask was sealed and stored at 0° C. for 6 h prior to concentration in vacuo. Purification of the residue by flash chromatography on silica gel (elution with tetrahydrofuran/dichloromethane/methanol, 68:30:2) gave an enriched fraction (280 mg, 24%) containing the title compound as well as a small amount of other closely-spaced by-products which was carried on directly. Potassium phthalimide (0.45 g, 2.43 mmol) was added in one portion to a stirred solution of 2,10-difluoro-12,13-dihydro-12-[6—O-(methylsulfonyl)-β-D-glucopyranosyl]-5H-indolo[2,3-a]pyrrolo[3,4-c]carbazole-5,7(6H)-dione (200 mg, 0.33 mmol) in anhydrous dimethylformamide (10 mL) before the mixture was heated to 130° C. for 3 h, cooled to ambient temperature, and concentrated down in vacuo overnight. The residue was then taken up in ethyl acetate (some tetrahydrofuran was added) and washed with 0.1N hydrochloric acid and brine. Following drying and solvent concentration, the residue was purified by flash chromatography on silica gel (elution with 7% methanol in chloroform) to yield 2,10-difluoro-12,13-dihydro-12-[6-deoxy-6-(phthalimido)-β-D-glucopyranosyl]-5H-indolo[2,3-a]pyrrolo[3,4-c]carbazole-5,7(6H)-dione (46 mg, 21%) as a yellow solid as well as the title compound (22 mg, 13%, 2 steps) also as a yellow solid.

reactant | 2,10-Difluoro-12,13-dihydro-12-[β-D-glucopyranosyl]-5H-indolo[2,3-a]pyrrolo[3,4-c]carbazole-5,7(6H)-dione | 1.91 mmol, 1.0 g | FC=1C=CC2=C(C1)NC1=C2C2=C(C=3C4=CC=C(C=C4N(C13)[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)F)C(NC2=O)=O | C26H19F2N3O7
reactant | methanesulfonyl chloride | 3.34 mmol, 0.26 mL, 1.75 eq. | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 12-(3,6-anhydro-β-D-glucopyranosyl)-2, 10-difluoro-12,13-dihydro-5H-indolo[2,3-a]pyrrolo[3,4-c]carbazole-5,7(6H)-dione | [C@@H]1([C@H](O)[C@@H]2[C@H](O)[C@H](O1)CO2)N2C1=CC(=CC=C1C=1C3=C(C4=C(C21)NC=2C=C(C=CC24)F)C(NC3=O)=O)F | C26H17F2N3O6
